US07153857B2
To a stirred solution of tert-butyl 4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazine-1-carboxylate (724 mg, 1.67 mmol) in CH2Cl2 (8 mL) at 0° C. was added trifluoroacetic acid (4 mL). The reaction was brought to room temperature and stirred for 30 minutes. Volatiles were removed in vacuo. The residue was then dissolved in CH2Cl2 (20 mL) and washed with aqueous sodium hydroxide solution (2M, 2×20 mL). The layers were then separated and the aqueous phase extracted with CH2Cl2 (3×10 mL). The combined organic extracts were then dried, (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in CH2Cl2 (50 mL), and cooled to 0° C. and treated sequentially with triethylamine (0.25 mL, 1.75 mmol) and methanesulfonyl chloride (0.14 mL, 13.5 mmol). The reaction was brought to RT and stirred for 1 hour. The reaction was then quenched with water (50 mL). The layers were separated and the aqueous phase extracted with CH2Cl2 (3×20 mL). The combined organic extracts were then dried, (MgSO4), filtered and concentrated in vacuo to give 1-(methylsulfonyl)-4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazine as an orange solid (445 mg, 1.08 mmol, 65%).

reactant | tert-butyl 4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazine-1-carboxylate | 1.67 mmol, 724 mg | FC(C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C22H23F3N4O2
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 1.75 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 13.5 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 1-(methylsulfonyl)-4-(5-{[5-(trifluoromethyl)pyridin-2-yl]ethynyl}pyridin-2-yl)piperazine | 1.08 mmol, 445 mg, 65% | CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C#CC1=NC=C(C=C1)C(F)(F)F | C18H17F3N4O2S
